** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/sky130_icrg_ip__ulpcomp2.sch
**.subckt sky130_icrg_ip__ulpcomp2 dvdd avdd ena vout vinn vinp clk dvss avss
*.PININFO avdd:I vinp:I vinn:I vout:O dvdd:I clk:I ena:I dvss:I avss:I
x1 dvddb clka clk clkb dvss Stage0_clk_inv
x2 avdd enab clka vinn vinp net2 net1 avss dvss dvdd Stage1
x3 dvdd enab dvddb clkb vout net2 net1 dvss Stage2_latch
x4 dvdd ena enab dvss Stage0_ena_inv
**.ends

* expanding   symbol:  Stage0_clk_inv.sym # of pins=5
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage0_clk_inv.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage0_clk_inv.sch
.subckt Stage0_clk_inv dvddb clka clk clkb dvss
*.PININFO dvss:O dvddb:I clka:O clk:I clkb:O
XM22 clka clkb dvddb dvddb sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 m=1
XM8 clkb clk dvddb dvddb sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 m=1
XM6 clkb clk dvss dvss sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 m=1
XM21 clka clkb dvss dvss sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 m=1
.ends


* expanding   symbol:  Stage1.sym # of pins=10
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage1.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage1.sch
.subckt Stage1 avdd enab clka vinn vinp oneg opos avss dvss dvdd
*.PININFO avdd:I vinp:I vinn:I opos:O oneg:O clka:I enab:I dvdd:I avss:I dvss:I
XM1 net4 net5 avdd avdd sky130_fd_pr__pfet_g5v0d10v5 L=1 W=50 nf=2 m=2
x2 clka dvdd dvss dvss avdd avdd net2 sky130_fd_sc_hvl__lsbuflv2hv_1
XM6 net1 net2 net4 net4 sky130_fd_pr__pfet_g5v0d10v5 L=1 W=50 nf=2 m=2
XM2 oneg vinp net1 net1 sky130_fd_pr__pfet_g5v0d10v5 L=1 W=20 nf=2 m=2
XM3 opos vinn net1 net1 sky130_fd_pr__pfet_g5v0d10v5 L=1 W=20 nf=2 m=2
XM4 net3 net3 avss avss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=5 nf=1 m=2
XM8 opos net2 net3 net3 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 m=1
XM5 oneg net2 net3 net3 sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=5 nf=1 m=1
x1 enab dvdd dvss dvss avdd avdd net5 sky130_fd_sc_hvl__lsbuflv2hv_1
.ends


* expanding   symbol:  Stage2_latch.sym # of pins=8
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage2_latch.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage2_latch.sch
.subckt Stage2_latch dvdd enab dvddb clkb vout oneg opos dvss
*.PININFO clkb:I vout:O dvss:O dvdd:I opos:I oneg:I enab:I dvddb:O
XM18 vout net1 dvss dvss sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 m=1
XM19 vout net1 dvddb dvddb sky130_fd_pr__pfet_01v8 L=1 W=2 nf=1 m=1
XM15 net5 clkb dvss dvss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=2 nf=1 m=1
XM9 net1 clkb dvddb dvddb sky130_fd_pr__pfet_01v8_hvt L=1 W=3 nf=1 m=2
XM10 net2 net1 dvddb dvddb sky130_fd_pr__pfet_01v8_hvt L=1 W=3 nf=1 m=2
XM11 net1 net2 dvddb dvddb sky130_fd_pr__pfet_01v8_hvt L=1 W=3 nf=1 m=2
XM12 net2 clkb dvddb dvddb sky130_fd_pr__pfet_01v8_hvt L=1 W=3 nf=1 m=2
XM1 dvddb enab dvdd dvdd sky130_fd_pr__pfet_01v8_hvt L=1 W=3 nf=1 m=2
XM2 net1 opos net3 dvss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=1 nf=1 m=1
XM3 net4 net1 net5 dvss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=1 nf=1 m=1
XM4 net3 net2 net5 dvss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=1 nf=1 m=1
XM5 net2 oneg net4 dvss sky130_fd_pr__nfet_03v3_nvt L=0.5 W=1 nf=1 m=1
.ends


* expanding   symbol:  Stage0_ena_inv.sym # of pins=4
** sym_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage0_ena_inv.sym
** sch_path: /home/tim/gits/cheetah_v3_analog/dependencies/sky130_icrg_ip__ulpcomp/xschem/Stage0_ena_inv.sch
.subckt Stage0_ena_inv dvdd ena enab dvss
*.PININFO ena:I dvdd:I dvss:O enab:O
XM25 enab ena dvdd dvdd sky130_fd_pr__pfet_01v8 L=0.5 W=2 nf=1 m=1
XM24 enab ena dvss dvss sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 m=1
.ends

.end
